US07947676B2
N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-(3-morpholin-4-ylpropoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(3-chloropropoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and morpholine to give the title compound in 30% yield; NMR Spectrum: 1.95-2.01 (m, 2H), 2.36 (br s, 4H), 2.44 (t, 2H), 3.55 (br s, 4H), 4.35 (t, 2H), 5.29 (s, 2H), 7.24 (d, 1H), 7.36-7.38 (m, 1H), 7.54-7.58 (m, 2H), 7.87-7.89 (m, 2H), 8.27 (s, 1H), 8.44 (s, 1H), 8.59 (d, 1H); Mass Spectrum: 496 (MH+).

reactant | 3-(3-chloropropoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C20H18Cl2N6O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-(3-morpholin-4-ylpropoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 30% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCCN2CCOCC2 | C24H26ClN7O3
